US08633173B2
2-{2-[3-(4-Methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl}benzonitrile was prepared from 2-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl)-benzonitrile (115.0 mg, 0.434 mmol) and 1-(3-bromo-phenyl)-4-methyl-piperazine (128 mg, 0.500 mmol in a manner analogous to Example 2d. Product was isolated as a pale orange solid (0.111 g, 58%). MP=68-70° C. (foam). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.46 (s, 1H), 8.43 (d, J=6.4 Hz, 1H), 7.95 (d, J=7.9 Hz, 1H), 7.81-7.79 (m, 2H), 7.64-7.62 (m, 1H), 7.33 (s, 1H), 7.20 (d, J=7.2 Hz, 1H), 7.09 (d, J=4.8 Hz, 2H), 6.96-6.92 (m, 1H), 6.47-6.44 (m, 1H), 5.50 (s, 2H), 3.12-3.09 (m, 4H), 2.44-2.42 (m, 4H), 2.22 (s, 3H). MS=440 (MH)+.

reactant | 2-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl)-benzonitrile | 0.434 mmol, 115.0 mg | NC1=NN2C(C(=CC=C2)OCC2=C(C#N)C=CC=C2)=N1 | C14H11N5O
reactant | 1-(3-bromo-phenyl)-4-methyl-piperazine | BrC=1C=C(C=CC1)N1CCN(CC1)C | C11H15BrN2
product | 2-{2-[3-(4-Methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl}benzonitrile | CN1CCN(CC1)C=1C=C(C=CC1)NC1=NN2C(C(=CC=C2)OCC2=C(C#N)C=CC=C2)=N1 | C25H25N7O
